US06777417B2
Synthesis of 3-[1-{3-[3-(3,5-dimethyl-piperazin-1-yl)-propyl]-4,5,6,7-tetrahydro-1H-indol-2-yl}-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-1H-indole-5-sulfonic acid methylamide
3-[3-(3,5-Dimethyl-piperazin-1-yl)-propyl]-4,5,6,7-tetrahydro-1H-indole-2-carbaldehyde (67 mg, 0.22 mmol) was condensed with 5-methylaminosulfonyloxindole (50 mg, 0.22 mmol) following the procedure used in Example 1 to provide (68 mg, 60% yield) of the desired compound.

reactant | 3-[3-(3,5-Dimethyl-piperazin-1-yl)-propyl]-4,5,6,7-tetrahydro-1H-indole-2-carbaldehyde | 0.22 mmol, 67 mg | CC1CN(CC(N1)C)CCCC1=C(NC=2CCCCC12)C=O | C18H29N3O
reactant | 5-methylaminosulfonyloxindole | 0.22 mmol, 50 mg | CNS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C9H10N2O3S
product | 3-[1-{3-[3-(3,5-dimethyl-piperazin-1-yl)-propyl]-4,5,6,7-tetrahydro-1H-indol-2-yl}-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-1H-indole-5-sulfonic acid methylamide | 68 mg, 60% yield | CNS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C=1NC=2CCCCC2C1CCCN1CC(NC(C1)C)C | C27H37N5O3S
